US05604227
b. Diethyl 8-chloro-4-hydroxyquinoline-2,3-dicarboxylate
To a stirred mixture of diethyl oxosuccinate sodium salt (2.31 g, 11.0 mM) in dimethylformamide (20 mL) under a nitrogen atmosphere was added 8-chloro-2H-3,1-benzoxazine-2,4(1H)-dione (2.17 g, 11.0 mM). The resulting mixture was heated slowly to 130° C. and maintained at this temperature for 2.5 hr. After cooling, the reaction mixture was poured into water and the resulting mixture was then extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried (MgSO4), filtered and concentrated to obtain an oily solid (1.55 g). This material was chromatographed (eluant: CH2C12 /CH3OH; 98/2) over silica gel to provide the title compound as an oil which slowly crystallized to a tan solid (0.700 g, 19.7%). A 0.150 g portion of this material was recrystallized from toluene/hexane to provide an analytical sample (0.050 g) of the title compound as a tan solid, mp 98°-99° C.; MS(CI): 324 (M+H). Analysis for C15H14NO5Cl·0.1 C6H14Calculated: C, 56.38; H, 4.67; N, 4.21 Found: C, 56.38; H, 4.83; N, 4.19

reactant | diethyl oxosuccinate sodium salt | 11.0 mM, 2.31 g | [Na].O=C(C(=O)OCC)CC(=O)OCC
reactant | 8-chloro-2H-3,1-benzoxazine-2,4(1H)-dione | 11.0 mM, 2.17 g | ClC1=CC=CC=2C(OC(NC21)=O)=O | C8H4ClNO3
reactant | water | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | Diethyl 8-chloro-4-hydroxyquinoline-2,3-dicarboxylate | 1.55 g | ClC=1C=CC=C2C(=C(C(=NC12)C(=O)OCC)C(=O)OCC)O | C15H14ClNO5
